US08871782B2
Cesium carbonate (1.7 g, 5.22 mmol, 3 eq) was added to a mixture of 4-(bromoacetyl)thiomorpholine (468 mg, 2.09 mmol, 1.2 eq, prepared according to the method described in Part C of Example 30) and 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (500 mg, 1.74 mmol, 1.0 eq) in 20 mL of DMF. The reaction mixture was heated to 70° C. and maintained for 14 hours. The reaction mixture was then cooled to ambient temperature, filtered, diluted with 50 mL of dichloromethane, concentrated under reduced pressure, and filtered to afford crude material. The crude material was purified by chromatography on a HORIZON HPFC system (eluting with a gradient of methanol/dichloromethane (20:80) in dichloromethane from 0:100 to 40:60), concentrated under reduced pressure, and crystallized from acetonitrile to afford 231 mg of 2-(methoxymethyl)-8-(2-oxo-2-thiomorpholin-4-ylethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-amine as an off white solid, mp 214-216° C.

reactant | Cesium carbonate | 5.22 mmol, 1.7 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(bromoacetyl)thiomorpholine | BrCC(=O)N1CCSCC1 | C6H10BrNOS
reactant | 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.74 mmol, 500 mg, 1.0 eq | OC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COC | C15H18N4O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(methoxymethyl)-8-(2-oxo-2-thiomorpholin-4-ylethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-amine | 231 mg | COCC1(N(C2=C(C=NC=3C=CC(=CC23)OCC(N2CCSCC2)=O)N1)CCC)N | C21H29N5O3S
